US04011319
A mixture of 33,5 g. (0.185 mol) of 3,4-dimethoxyphenylethylamine and 28 g. of o-methoxystyrene oxide is heated with stirring under argon on a steam bath overnight. A sample is chromatographed to obtain a pure sample of the product. This pure seed and 200 ml. of 2:1 ethyl acetatepetroleum ether are added to the reaction mixture. Chilling and stirring yields the product N-[2-(3,4-dimethoxyphenyl)ethyl]-2-hydroxy-2-(2-methoxyphenyl)ethylamine. m.p. 88° C.

reactant | 3,4-dimethoxyphenylethylamine | 0.185 mol | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | o-methoxystyrene oxide | COC1=C(C2CO2)C=CC=C1 | C9H10O2
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-2-hydroxy-2-(2-methoxyphenyl)ethylamine | COC=1C=C(C=CC1OC)CCNCC(C1=C(C=CC=C1)OC)O | C19H25NO4
